US06653430B1
Synthesis of Trimethylsilylcyclopentadienyl-trichlorotitanium (Me3SiCpTiCl3)
To a solution of 2.1 g (10 mmol) of the thus-produced bis(trimethylsilyl)cyclopentadiene in 100 ml of dry hexane, 1.1 ml (10 mmol) of titanium tetrachloride was dropwise added while being stirred in an argon atmosphere at −78° C. After completion of the addition, the reaction mixture was further stirred for 4 hours. Then solvent was distilled off under a reduced pressure, and the obtained solid was subjected to sublimation to give 2.1 g of yellow crystal. Yield: 85%. The chemical structure of Me3SiCpTiCl3 was confirmed by the following data obtained by 1H-NMR using CDCl3.

reactant | bis(trimethylsilyl)cyclopentadiene | 10 mmol, 2.1 g | C[Si](C)(C)C1(C=CC=C1)[Si](C)(C)C | C11H22Si2
reactant | titanium tetrachloride | 10 mmol, 1.1 ml | [Ti](Cl)(Cl)(Cl)Cl
reactant | hexane | 100 ml | CCCCCC | C6H14
product | Trimethylsilylcyclopentadienyl-trichlorotitanium | 2.1 g, Yield: 85% | C[Si](C)(C)[Ti](Cl)(Cl)(Cl)C1C=CC=C1 | InChI=1S/C5H5.C3H9Si.3ClH.Ti/c1-2-4-5-3-1;1-4(2)3;;;;/h1-5H;1-3H3;3*1H;/q;;;;;+3/p-3
